US04771046
A solution of 0.71 ml of triethylamine and 1.1 g of p-nitrobenzyloxyoxalyl chloride in 10 ml of methylene chloride was added to a solution of 0.9 g of (3S,4S)-3-[(1R)-1-trimethylsilyloxyethyl]-4-[(1RS)-1-(phenylthiocarbonyl)ethyl]-2-azetidinone in 10 ml of methylene chloride, cooled to about -30° C., and the mixture was stirred for 35 minutes at the same temperature. The reaction mixture was worked up and purified in the same manner as in Preparation 1(3), giving (3S,4S)-3-[(1R)-1-trimethylsilyloxyethyl]-4-[(1RS)-1-(phenylthiocarbonyl)ethyl]-1-(p-nitrobenzyloxyoxalyl)-2-azetidinone as an oil.

reactant | triethylamine | 0.71 ml | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzyloxyoxalyl chloride | 1.1 g | [N+](=O)([O-])C1=CC=C(COC(C(=O)Cl)=O)C=C1 | C9H6ClNO5
reactant | (3S,4S)-3-[(1R)-1-trimethylsilyloxyethyl]-4-[(1RS)-1-(phenylthiocarbonyl)ethyl]-2-azetidinone | 0.9 g | C[Si](O[C@H](C)[C@H]1C(N[C@@H]1C(C)C(=S)C1=CC=CC=C1)=O)(C)C | C17H25NO2SSi
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-3-[(1R)-1-trimethylsilyloxyethyl]-4-[(1RS)-1-(phenylthiocarbonyl)ethyl]-1-(p-nitrobenzyloxyoxalyl)-2-azetidinone | C[Si](O[C@H](C)[C@H]1C(N([C@@H]1C(C)C(=S)C1=CC=CC=C1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)(C)C | C26H30N2O7SSi
